US05849764
Step 2.1C 2-{2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-isoindole-1,3-dione
To a solution of 2-[2-(2-bromo-1H-indol-3-yl)-ethyl]-isoindole-1,3-dione (150 mg in a mixture of 5 mL toluene and 5 mL ethanol) was added 3,5-dimethylphenyl boronic acid (85 mg) followed by 1.0 mL of 1M sodium carbonate. To the stirred solution was added lithium chloride (60 mg) followed by tetrakis(triphenylphosphine)palladium (28 mg) and the mixture heated to reflux on an oil bath. After 4 hours the mixture was cooled to room temperature and concentrated in vacuo. Purification by flash chromatography on silica gel (hexane:ethyl acetate, 5:1) gave the title compound (146 mg).

reactant | 2-[2-(2-bromo-1H-indol-3-yl)-ethyl]-isoindole-1,3-dione | BrC=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C18H13BrN2O2
reactant | 3,5-dimethylphenyl boronic acid | 85 mg | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | lithium chloride | 60 mg | [Cl-].[Li+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-ethyl}-isoindole-1,3-dione | 146 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C26H22N2O2
